US09421205B2
(g) tert-Butyl 4-(4-((4-((5-(2-ethoxy-2-oxoethyl)pyrimidin-4-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I111)
To a nitrogen de-gassed solution of ethyl 2-(4-ethynylpyrimidin-5-yl)acetate (I110) (0.146 g, 0.766 mmol) and tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I45) (0.250 g, 0.547 mmol) in dry DMF (15 mL) were added triethylamine (0.305 mL, 2.19 mmol), tri-tert-butylphosphonium tetrafluoroborate (0.016 g, 0.055 mmol), trans-dichlorobis(triphenylphosphine)palladium(II) (0.019 g, 0.027 mmol) and Cu(I)I (0.010 g, 0.055 mmol). The reaction mixture was heated under microwave irradiation at 120° C. for 20 minutes and then concentrated in vacuo to give a brown gum. The crude material was purified by silica gel chromatography (Isolera Biotage, 40 g Si cartridge, 0-70% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I111) (0.093 g, 27% yield) as a yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 10.50 (s, 1H), 9.23 (s, 1H), 8.97 (s, 1H), 8.88 (s, 1H), 7.63 (d, J=8.6 Hz, 2H), 7.23 (d, J=8.6 Hz, 2H), 4.14-4.04 (m, 4H), 3.96 (s, 2H), 2.81 (br s, 2H), 2.70-2.61 (m, 1H), 1.75 (d, J=11.9 Hz, 2H), 1.53-1.37 (m, 11H), 1.14 (t, J=7.1 Hz, 3H). LCMS Method C: rt 6.64 min; m/z 609.2 [M−H]−.

reactant | ethyl 2-(4-ethynylpyrimidin-5-yl)acetate | 0.766 mmol, 0.146 g | C(#C)C1=NC=NC=C1CC(=O)OCC | C10H10N2O2
reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.547 mmol, 0.250 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
reactant | triethylamine | 2.19 mmol, 0.305 mL | C(C)N(CC)CC | C6H15N
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.055 mmol, 0.016 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.027 mmol, 0.019 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 4-(4-((4-((5-(2-ethoxy-2-oxoethyl)pyrimidin-4-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.093 g, 27% yield | C(C)OC(CC=1C(=NC=NC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H33F3N6O4
